US05328911
2-Ethylsulfonyl-7-methyl-3[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-3H-imidazo[4.5-b]pyridine
6.4 g (15 retool) of 2-ethylthio-7-methyl-3[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-3H- imidazo[4.5-b]pyridine was dispersed in 150 ml of dichloromethane. 150 ml of a dichloromethane solution of 3.94 g (23 mmol) of meta-chloro-perbenzoic acid was added dropwise to the solution over 40 minutes, while agitated and cooled with water and ice. The mixture was stirred at room temperature for 20 minutes. The reaction product mixture was washed separately with 10% aqueous solution of sodium bisulfate, a saturated aqueous solution of sodium bicarbonate and a saturated saline. The dichloromethane phase was separated and taken, then dried with aqueous magnesium sulfate. The solvent was distilled out at a reduced pressure and the residue was treated chromatographically with silicagel to obtain 5.93 g of the above named compound from the eluate of ethyl acetate and methanol (9:1 v/v).

reactant | 2-ethylthio-7-methyl-3[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-3H- imidazo[4.5-b]pyridine | 6.4 g | C(C)SC1=NC=2C(=NC=CC2C)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C23H21N7S
reactant | meta-chloro-perbenzoic acid | 23 mmol, 3.94 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 2-Ethylsulfonyl-7-methyl-3[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-3H-imidazo[4.5-b]pyridine | C(C)S(=O)(=O)C1=NC=2C(=NC=CC2C)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C23H21N7O2S
